US08703810B2
A mixture of 4-methylpiperidine (10 g, 0.10 mol), 2-bromoethanol (12.5 g, 0.10 mol), and triethylamine (15 g, 0.15 mol) in CHCl3 (100 mL) was stirred at room temperature for two days. The mixture was concentrated, and the residue was purified on a silica gel column (eluting with NH3—H2O/MeOH/DCM=1/6/300) to give 2-(4-methylpiperidin-1-yl)ethanol (3 g) as a colorless oil. 1H NMR (CDCl3): δ 3.57 (m, 2H), 3.24 (br s, 1H), 2.84 (m, 2H), 2.47 (m, 2H), 2.00 (dt, 2H), 1.58 (m, 2H), 1.35 (m, 1H), 1.21 (dt, 2H), 0.89 (d, 3H); LCMS: 144 (M+H)+.

reactant | 4-methylpiperidine | 0.10 mol, 10 g | CC1CCNCC1 | C6H13N
reactant | 2-bromoethanol | 0.10 mol, 12.5 g | BrCCO | C2H5BrO
reactant | triethylamine | 0.15 mol, 15 g | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-methylpiperidin-1-yl)ethanol | 3 g | CC1CCN(CC1)CCO | C8H17NO
